### PR TITLE
[Merged by Bors] - feat: refactor lemma `LieModule.dualAnnihilator_ker_traceForm_le_span_weight`

### PR DESCRIPTION
**Pull request by ocfnash**
Also add some API for related results such as `LinearMap.dualCoannihilator_range_eq_ker_flip`, which is not needed here but worth having.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Killing.lean [hunk 1]
```diff
@@ -493,9 +493,10 @@ lemma LieModule.traceForm_eq_sum_finrank_nsmul_mul [LieAlgebra.IsNilpotent K L]
   exact Finset.sum_congr (by simp) (fun χ _ ↦ traceForm_weightSpace_eq K L M χ x y)
 
 -- The reverse inclusion should also hold: TODO prove this!
-lemma LieModule.dualAnnihilator_ker_traceForm_le_span_weight [LieAlgebra.IsNilpotent K L]
+lemma LieModule.range_traceForm_le_span_weight [LieAlgebra.IsNilpotent K L]
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Killing.lean:496]: Would it make sense to also keep the old version? Because the current proof got a line longer, and the proof on line 523 also became more complicated...

File: Mathlib/LinearAlgebra/Dual.lean [hunk 2]
```diff
@@ -1599,6 +1599,16 @@ theorem dualMap_bijective_iff {f : V₁ →ₗ[K] V₂} :
...
 
+lemma dualAnnihilator_ker_eq_range_of_comm (f : V₂ →ₗ[K] Dual K V₂) (h : ∀ x y, f x y = f y x) :
+    (ker f).dualAnnihilator = range f := by
+  suffices range f ≤ (ker f).dualAnnihilator by
+    refine (FiniteDimensional.eq_of_le_of_finrank_eq this ?_).symm
+    rw [← range_dualMap_eq_dualAnnihilator_ker, finrank_range_dualMap_eq_finrank_range]
+  rintro - ⟨x, rfl⟩
+  simp only [Submodule.mem_dualAnnihilator, mem_ker]
+  intro y hy
+  rw [h, hy, zero_apply]
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Dual.lean:1610]: golf
```suggestion
  change _ = range (f.flip.dualMap.comp (Module.evalEquiv K V₂).toLinearMap)
  rw [← range_dualMap_eq_dualAnnihilator_ker, range_comp_of_range_eq_top _ (LinearEquiv.range _)]
  congr; ext; apply h
```

File: Mathlib/Algebra/Lie/Killing.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Killing.lean:496]: It was lazy of me just to add a line to the proof of `range_traceForm_le_span_weight`: the new statement permits a much more direct proof. (I was just tying off loose ends before some travel and was short on time.)

I’ll have to come back to this when I return.

File: Mathlib/LinearAlgebra/Dual.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Dual.lean:1610]: Thanks, I don’t have a laptop to test this but feel free to commit to this branch.

File: Mathlib/LinearAlgebra/Dual.lean [hunk 3]
```diff
@@ -1599,6 +1599,12 @@ theorem dualMap_bijective_iff {f : V₁ →ₗ[K] V₂} :
   simp_rw [Function.Bijective, dualMap_surjective_iff, dualMap_injective_iff, and_comm]
 #align linear_map.dual_map_bijective_iff LinearMap.dualMap_bijective_iff
 
+lemma dualAnnihilator_ker_eq_range_of_comm (f : V₂ →ₗ[K] Dual K V₂) (h : ∀ x y, f x y = f y x) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Dual.lean:1602]:
```suggestion
lemma dualAnnihilator_ker_eq_range_of_comm (f : V₂ →ₗ[K] Dual K V₂) (h : f.flip = f) :
```
is generally easier to prove things about (since `ext` can apply)

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
